US04775675
5,5-Dimethyl-2-(2-furyl)-thiazolidine-4(S)-carboxylic acid
A solution containing 2.48 ml of furfural and 4.27 g of D-penicillamine in 90 ml of 30% methanol is stirred for 8 hours, then evaporated to dryness. The partly crystalline residue is rubbed with ether to give the title compound, m.p.: 141°-143° C., [α]D20 =+103° (c=0.602, dimethylsulphoxide).

reactant | furfural | 2.48 ml | C(C1=CC=CO1)=O | C5H4O2
reactant | D-penicillamine | 4.27 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | methanol | 90 ml | CO | CH4O
product | 5,5-Dimethyl-2-(2-furyl)-thiazolidine-4(S)-carboxylic acid | CC1([C@@H](NC(S1)C=1OC=CC1)C(=O)O)C | C10H13NO3S
